US05834494
6-Chloro-5-propylindoline (D54)
6-chloro-5-propylindole (D53) (0.063 g, 0.33 mmol) was treated with sodium cyanoborohydride as in the method of Description 10 to give the title compound (0.06 g, 94%) as a yellow oil.

reactant | 6-chloro-5-propylindole | 0.33 mmol, 0.063 g | ClC1=C(C=C2C=CNC2=C1)CCC | C11H12ClN
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 6-Chloro-5-propylindoline | 0.06 g, 94% | ClC1=C(C=C2CCNC2=C1)CCC | C11H14ClN
